* c:\users\hp\esim-workspace\sar8bit\sar8bit.cir

.include avsddac_3v3_sky130_v2.sub
.include rropamp31.sub
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
* u3  net-_u1-pad4_ net-_u1-pad3_ net-_u1-pad2_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ sar
v1 net-_x1-pad4_ gnd  dc 1.2
x2 net-_x2-pad1_ net-_x2-pad1_ gnd gnd gnd net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ dacout gnd avsddac_3v3_sky130_v2
* s c m o d e
* u5  comp net-_u1-pad1_ adc_bridge_1
* u6  net-_u3-pad11_ net-_u3-pad10_ net-_u3-pad9_ net-_u3-pad8_ net-_u3-pad7_ net-_u3-pad6_ net-_u3-pad5_ net-_u3-pad4_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ dac_bridge_8
v4  net-_u4-pad1_ gnd pulse(1.8 0 0 0 0 0.5m 1m)
* u4  net-_u4-pad1_ net-_u1-pad2_ adc_bridge_1
v2 net-_x2-pad1_ gnd  dc 3.3
* u2  dacout plot_v1
v3 net-_x1-pad1_ gnd  dc 3.3
x1 net-_x1-pad1_ gnd dacout net-_x1-pad4_ comp rropamp31
* u7  comp plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ control
a1 [net-_u1-pad4_ ] [net-_u1-pad3_ ] [net-_u1-pad2_ ] [net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] u3
a2 [comp ] [net-_u1-pad1_ ] u5
a3 [net-_u3-pad11_ net-_u3-pad10_ net-_u3-pad9_ net-_u3-pad8_ net-_u3-pad7_ net-_u3-pad6_ net-_u3-pad5_ net-_u3-pad4_ ] [net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ ] u6
a4 [net-_u4-pad1_ ] [net-_u1-pad2_ ] u4
a5 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
* Schematic Name:                             sar, NgSpice Name: sar
.model u3 sar(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1 in_high=2 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1 in_high=1.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             control, NgSpice Name: control
.model u1 control(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=21 ) 
.tran 10e-06 10e-03 0e-00

* Control Statements 
.control
set color0 = white
set color1 = black
set color2 = red
set xbrushwidth = 2
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dacout)
plot v(comp)
.endc
.end
